US06506770B1
1,3-Phenylenebis(ethylene)diamine
To a solution of 1,3-phenylenediacetonitrile (9.37 g, 60 mmol) in CH3OH (saturated with NH3, 150 mL) was added Raney-Ni (ca. 20 g, previously washed with CH3OH several times) and the mixture was hydrogenated at 45 psi on a Parr apparatus for 48 h. The reaction mixture was filtered through celite and the filtrate evaporated to give the crude product (9.45 g, 96%) as a light green oil: 1H NMR (CDCl3) δ0.80-1.50 (br s, 4H), 2.70-2.76 (m, 4H), 2.94-2.99 (m, 4H), 7.01-7.07 (m, 3H), 7.18-7.26 (m, 1H). This was used in the next step without further purification.

reactant | 1,3-phenylenediacetonitrile | 60 mmol, 9.37 g | C1(=CC(=CC=C1)CC#N)CC#N | C10H8N2
solvent | CH3OH | 150 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 1,3-Phenylenebis(ethylene)diamine | 9.45 g, 96% | C1(=CC(=CC=C1)CCN)CCN | C10H16N2
